US07932272B2
Benzothiazole-6-carboxylic acid 4-(3-fluoro-benzyloxy)-benzylamide
To a solution of 4-(3-fluorobenzyloxy)-benzylamine described in Preparation Example 6 (129 mg, 0.558 mmol) and benzothiazole-6-carboxylic acid (100 mg, 0.558 mmol) in tetrahydrofuran (5 mL) were added benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (296 mg, 0.670 mmol) and triethylamine (93 μl, 0.670 mmol), and the solution was stirred overnight at room temperature. Ethyl acetate and water were added to the reaction solution, which was then partitioned, the organic layer was washed with water, and then, dried over anhydrous magnesium sulfate. The solvent was evaporated, the residue was purified by NH silica gel column chromatography (hexane:ethyl acetate), and the title compound (148 mg, 68%) was obtained as a white solid.

reactant | 4-(3-fluorobenzyloxy)-benzylamine | FC=1C=C(COC2=CC=C(CN)C=C2)C=CC1 | C14H14FNO
reactant | benzothiazole-6-carboxylic acid | 0.558 mmol, 100 mg | S1C=NC2=C1C=C(C=C2)C(=O)O | C8H5NO2S
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.670 mmol, 296 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 0.670 mmol, 93 μl | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Benzothiazole-6-carboxylic acid 4-(3-fluoro-benzyloxy)-benzylamide | 148 mg, 68% | FC=1C=C(COC2=CC=C(CNC(=O)C3=CC4=C(N=CS4)C=C3)C=C2)C=CC1 | C22H17FN2O2S
